US05378690
N-Acetyl-3-(5-isoxazolyl)-DL-alanine
20 ml of pyridine and 20 ml of acetic anhydride were added to a solution of 12.45 g of 3-(5-isoxazolyl)-DL-alanine hydrochloride (prepared as described in Preparation 6) dissolved in 100 ml of methanol, whilst ice-cooling. The mixture was then stirred at room temperature for 8 hours, after which it was allowing to stand overnight. The mixture was then freed from the solvent by evaporation under reduced pressure. The residue was mixed with water and then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure, to afford 10.39 g (82.3%) of the title compound as a brown oil.

reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(5-isoxazolyl)-DL-alanine hydrochloride | 12.45 g | Cl.O1N=CC=C1CC(N)C(=O)O
solvent | methanol | 100 ml | CO | CH4O
product | N-Acetyl-3-(5-isoxazolyl)-DL-alanine | 10.39 g, 82.3% | C(C)(=O)NC(CC1=CC=NO1)C(=O)O | C8H10N2O4
